US08124606B2
Compound 112A: 3,4-difluoro-N-methylbenzamide:
Using methanamine hydrochloride and 3,4-difluorobenzoic acid in the general procedure for coupling of amines to carboxylic acids, the title compound was obtained (75% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.78 (d, J=4.55 Hz, 3H) 7.55 (dt, J=10.61, 8.34 Hz, 1H) 7.72 (dddd, J=8.59, 4.55, 2.15, 1.39 Hz, 1H) 7.86 (ddd, J=11.68, 7.89, 2.15 Hz, 1H) 8.48-8.59 (m, 1H). ESI-MS: m/z 172.1 (M+H)+. mp=142.7-145.0° C.

reactant | methanamine hydrochloride | Cl.CN
reactant | 3,4-difluorobenzoic acid | FC=1C=C(C(=O)O)C=CC1F | C7H4F2O2
product | 3,4-difluoro-N-methylbenzamide | 75% yield | FC=1C=C(C(=O)NC)C=CC1F | C8H7F2NO
